US07557221B2
To a solution of [(S)-2-Phenyl-1-(6-trimethylsilanylethynyl-1H-benzoimidazol-2-yl)-ethyl]-carbamic acid tert-butyl ester (90 mg, 0.208 mmol) in methanol (10 mL) at room temperature, was added finely powdered anhydrous potassium carbonate (258 mg, 1.87 mmol). The resulting heterogenous mixture was stirred at room temperature until LC/MS indicated the reaction was complete. The solvent was then allowed to evaporate and resulting residue was partitioned in 1:1 v/v water/ethyl acetate (50 mL total volume) and the aqueous layer was separated and extracted twice with ethyl acetate (20 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The yellowish colored residue was applied to a silica gel column using dichloromethane (10 mL) and gradient eluted from 10 to 75% v/v ethyl acetate in hexanes to give [(S)-1-(6-ethynyl-1H-benzoimidazol-2-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester (54 mg, 72%)

reactant | [(S)-2-Phenyl-1-(6-trimethylsilanylethynyl-1H-benzoimidazol-2-yl)-ethyl]-carbamic acid tert-butyl ester | 0.208 mmol, 90 mg | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C1=NC2=C(N1)C=C(C=C2)C#C[Si](C)(C)C)=O | C25H31N3O2Si
reactant | potassium carbonate | 1.87 mmol, 258 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
product | [(S)-1-(6-ethynyl-1H-benzoimidazol-2-yl)-2-phenyl-ethyl]-carbamic acid tert-butyl ester | 54 mg, 72% | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C1=NC2=C(N1)C=C(C=C2)C#C)=O | C22H23N3O2
